US05338742
4-[3-(4-Ethoxyphenyl)propyl]pyridine
A mixture of 6.5 g (0.0235 m) of 5-[2-(4-ethoxyphenyl)ethyl]barbituric acid and 7 g (0.047 m) of 4-chloropyridine hydrochloride was mixed with a mortar and pestle and heated in an oil bath until the reagents formed a melt (185° C.). The mixture was kept at 180°-185° for 15-20 minutes, when the mixture began to noticeably darken. When heat was removed, the mixture quickly formed a hard glass. To this product, 6.5 g of NaOH pellets and 40 mL of water was added, and the mixture was refluxed for 5-6 hours. After cooling, the mixture was acidified with concentrated HCl and refluxed for 11/2 hours. The mixture was then diluted over ice, and the pH was adjusted to neutral using dilute NaOH. The product was then extracted into CH2Cl2. The CH2Cl2 layer was separated, dried, adsorbed onto silica gel, and chromatographed using CH2Cl2 >50% EtOAc/CH2Cl2. The product was an oil which crystallized. Yield 0.5 g. MP 79°-81° C.

reactant | 5-[2-(4-ethoxyphenyl)ethyl]barbituric acid | 6.5 g | C(C)OC1=CC=C(C=C1)CCC1C(NC(NC1=O)=O)=O | C14H16N2O4
reactant | 4-chloropyridine hydrochloride | 7 g | Cl.ClC1=CC=NC=C1
reactant | NaOH | 6.5 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 40 mL | O | H2O
product | 4-[3-(4-Ethoxyphenyl)propyl]pyridine | C(C)OC1=CC=C(C=C1)CCCC1=CC=NC=C1 | C16H19NO
